US05166385
Methyl 3-(phenyl-methoxyphosphinyl)-2-chloropropionate
138 g of dimethyl phenylphosphonate are slowly added at 20° C. under nitrogen to a solution of 120.5 g of methyl 2-chloroacrylate and 94 g of phenol. After a reaction time of 3 hours at 70° C. phenetole is removed by vacuum distillation. The residue represents 267 g of crude product with a 93.0% purity, which corresponds to a theoretical yield of 90.1%.

reactant | dimethyl phenylphosphonate | 138 g | C1(=CC=CC=C1)P(OC)(OC)=O | C8H11O3P
reactant | methyl 2-chloroacrylate | 120.5 g | ClC(C(=O)OC)=C | C4H5ClO2
reactant | phenol | 94 g | C1(=CC=CC=C1)O | C6H6O
product | Methyl 3-(phenyl-methoxyphosphinyl)-2-chloropropionate | yield of 90.1% | C1(=CC=CC=C1)P(=O)(CC(C(=O)OC)Cl)OC | C11H14ClO4P
